US05919793
A mixture of 3-ethynyl-3-hydroxyquinuclidine (453 mg), methoxyethyl 4-bromo-2-chlorophenyl ether (0.97 g), bis(triphenylphosphine)palladium (II) chloride (105 mg), copper (I) iodide (55 mg), triethylamine (5 ml) and dimethylformamide (10 ml) was stirred at 70° C. under an atmosphere of argon for 2 hours. The triethylamine and dimethylformamide were removed by evaporation. The residue was purified by flash column chromatography on silica gel (Merck Art. No. 9385) using a mixture of 10% methanol in dichloromethane containing 1% ammonia (density, 0.880 g/cm3) as eluent. The residue was crystallised from acetonitrile to give 3-[2-(3-chloro-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol (0.52 g) as a colourless solid, m.p. 138-139° C.; microanalysis, found: C, 64.1; H, 6.7; N, 4.1%; C18H22ClNO3 requires: C, 63.9; H, 6.6; N, 4.1%; NMR ([CD3 ]2SO): 7.5(1H,d), 7.3(1H,d of d), 7.1(1H,d), 5.5(1H,s), 4.2(2H,m), 3.7(2H,m), 3.3(3H,s), 2.8(2H,m), 2.7(4H,m), 2-1.8(3H,m), 1.6(1H,m) and 1.3(1H,m); m/z 336(M+H).

reactant | 3-ethynyl-3-hydroxyquinuclidine | 453 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | methoxyethyl 4-bromo-2-chlorophenyl ether | 0.97 g | BrC1=CC(=C(C=C1)OCCOC)Cl | C9H10BrClO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 105 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 55 mg | [Cu]I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(3-chloro-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol | 0.52 g | ClC=1C=C(C=CC1OCCOC)C#CC1(CN2CCC1CC2)O | C18H22ClNO3
